US05644053
Benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1 -aza-bicyclo[3.2.0]heptane-2-carboxylate.
100 ml of dichloromethane were treated with 0.84 ml (9.6 mmol) of oxalyl chloride under argon and cooled to -60° C. Thereto there were added dropwise 0.73 ml (10.25 mmol) of DMSO, followed by 2.5 g (6.52 mmol) of benzhydryl (2S,3R,5R)-3-hydroxymethyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate dissolved in 100 ml of dichloromethane. The mixture was stirred at the same temperature for 3 hours and then 3.2 ml (23.0 mmol) of triethylamine were added. The cooling bath was removed and the mixture was left to warm to room temperature. The orange solution was poured into 1000 ml of 0.2N hydrochloric acid and the aqueous phase was extracted twice with dichloromethane. The organic phases were washed with water and saturated, aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated on a rotary evaporator. The thus-obtained product (2.50 g, 100%) can be processed without further purification or can be recrystallized from diethyl ether. Yield: 2.00 g (80%) of white crystal powder; m.p. 111.8°-112.8° C. IR(KBr): 2720, 1788, 1743, 1718 cm-1MS: (M--CH2CO) 339 1H-NMR (250 MHz, CDCl3): δ[ppm]=1.26(s,3H), 3.06(dd,1H,J=16.2Hz, 2Hz, 6-H), 3.54(dd,1H,J=16.2Hz, 4Hz,6-H), 5.34(s,1H,2-H), 5.42(dd,1H,J=2Hz, 4Hz,5-H), 6.95(s,1H,CHPh2), 7.30-7.38 (m,10H,Ph), 9.20(s,1H).

reactant | oxalyl chloride | 9.6 mmol, 0.84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 10.25 mmol, 0.73 ml | CS(=O)C | C2H6OS
reactant | benzhydryl (2S,3R,5R)-3-hydroxymethyl-3-methyl-7-oxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | 6.52 mmol, 2.5 g | OC[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H21NO4S
reactant | triethylamine | 23.0 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Benzhydryl (2S,3R,5R)-3-formyl-3-methyl-7-oxo-4-thia-1 -aza-bicyclo[3.2.0]heptane-2-carboxylate | C(=O)[C@]1([C@@H](N2C(C[C@H]2S1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H19NO4S
